US06864357B2
H—Leu—Phe—NH—(CH2)7—CH3
The organic layer containing Z-Leu-Phe-NH-(CH2)7-CH3 was diluted with 1-methyl-2-pyrrolidinone and subjected to catalytic hydrogenolysis in the presence of palladium on charcoal. Upon completion of the reaction, 5% Na2CO3/10% NaCl was added and the resulting suspension was filtered at 45° C. The residue was washed with ethyl acetate, and the combined organic filtrates were extracted with 5% Na2CO3/10% NaCl, 30% NaCl and water. The organic layer was evaporated to dryness to give the desired product in 85% yield.

reactant | Z-Leu-Phe-NH-(CH2)7-CH3 | N([C@@H](CC(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCCCCCCCC)C(=O)OCC1=CC=CC=C1 | C31H45N3O4
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
catalyst | palladium on charcoal | [Pd] | Pd
product | H—Leu—Phe—NH—(CH2)7—CH3 | 85% yield | N[C@@H](CC(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCCCCCCCC | C23H39N3O2
